* Z:\mnt\design.r\spice\examples\1576.asc
R1 N006 0 4.99K
R2 OUT N006 15.8K
D1 0 N002 MBRS340
D2 OUT N001 1N4148
C1 N001 N002 .33µ
C2 OUT 0 100µ
L1 N002 OUT 15µ
V1 IN 0 10
C4 N004 0 500p
R3 N005 N004 10K
XU1 N001 IN N002 OUT N003 0 N006 N005 LT1576
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1576.sub
.backanno
.end
